US07214824B2
To a mixture of 4-(2,2,2-trifluoro-1,1-dimethylethyl)phenol (408 mg, 2.0 mmol, WO 9708144A1) and potassium carbonate (552 mg, 4.0 mmol) in N,N-dimethylformamide (DMF) (30 ml) was added ethyl bromoacetate (334 mg, 2.0 mmol) and the mixture was stirred for 3 hours at ambient temperature. The reaction was partitioned with water and a 1:10 by volume mixture of ethylacetate/hexane, and the organic layer was separated and dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was passed through a silica gel chromatography column and eluted with a 1:1 by volume mixture of ethyl acetate/hexane to furnish ethyl [4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetate. Then, ethyl [4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetate was treated with 2M aqueous sodium hydroxide (3.0 ml) and methanol (3.0 ml) for 2 hours at room temperature and was quenched with 2M aqueous hydrogen chloride to acidify the mixture adjusting to pH 1. Crude product was extracted with ethyl acetate, and then the organic layer was dried over magnesium sulfate. After filtration, solvent was evaporated under reduced pressure to give 345 mg (66% yield) of the title compound as a white solid.

reactant | 4-(2,2,2-trifluoro-1,1-dimethylethyl)phenol | 2.0 mmol, 408 mg | FC(C(C)(C)C1=CC=C(C=C1)O)(F)F | C10H11F3O
reactant | potassium carbonate | 4.0 mmol, 552 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 2.0 mmol, 334 mg | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl [4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetate | FC(C(C)(C)C1=CC=C(OCC(=O)OCC)C=C1)(F)F | C14H17F3O3
